*****************************************************************
* NXP PSMN011-30YLC
*
* Polarity N-Channel
* Ratings 30V/1.160000E-002OHMS/37A
*
* Date Created Sun Sep 04 13:19:32 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN011-30YLC DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.0125663706143592
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.26194671058465
RLS1 8 7 0.00035

RDS 7 4 3000000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.00833818121897234 TC=0.00585658240844502,-1.33386455550974E-06
RBD 9 4 0.00396392590543894 TC=0.00585658240844502,-1.33386455550974E-06
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 6.25e-10
RG 1 2 1.96663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -16	549.6
+ -10	548.6
+ -5	545.66
+ -4	543.3
+ -3	534.36
+ -2	379.68
+ -1	326.4
+ -0.5	264.49
+ -0.2	226.56
+ -0.1	214.39
+ 0	202.925
+ 0.1	187.07
+ 0.2	172.78
+ 0.5	140.67
+ 1	111.45
+ 2	85.89
+ 3	73.9
+ 4	66.5
+ 5	61.45
+ 6	57.66
+ 8	51.99
+ 10	48.2
+ 12	45.87
+ 15	43.34
+ 20	40.26
+ 25	37.18
+ 30	34.1


.MODEL MINT NMOS(Vto=1.98 Kp=1.0e+002 Nfs=450000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=34 Ibv=2.500000E-004 Rs=1E-6 Is=3.81730188710141e-13
+ N=1 M=0.54 VJ=0.5 Fc=0.5 Cjo=6.5491e-10 Tt=1.6956e-08)

.ENDS

